US08748582B2
b) Preparation of 6,6′-diethoxy-3,3′-bipyridine
The title compound was prepared as described by Constable et al.13 using NiCl2(PPh3)2 (327 mg, 0.5 mmol, 0.3 eq.), acid washed Zn powder (164 mg, 1.5 eq.) and Et4NI (435 mg, 1.7 mmol, 1 eq.) in. distilled THF (10 mL). with a solution of 5 bromo-2 ethoxypyridine (344 mg, 1.7 mmol, 1 eq.) in THF (5 mL) at 50° C. for 24 h. Workup gave a white crystalline solid (237 mg; 80%). The reaction was also carried out on a larger scale (1.0 g or 1.7 g of starting material) giving yields of 85% and 90% respectively. The spectral data were consistent with literature data13.

reactant | bromo-2 ethoxypyridine | 1.7 mmol, 344 mg, 1 eq. | BrC=1C(=NC=CC1)OCC | C7H8BrNO
catalyst | Et4NI | 1.7 mmol, 435 mg, 1 eq. | [N+](CC)(CC)(CC)CC.[I-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | NiCl2(PPh3)2 | 0.5 mmol, 327 mg, 0.3 eq. | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Zn | 164 mg, 1.5 eq. | [Zn] | Zn
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6,6′-diethoxy-3,3′-bipyridine | C(C)OC1=CC=C(C=N1)C=1C=NC(=CC1)OCC | C14H16N2O2
